US07754742B2
2-Cyclopropyl-N-methoxy-N-methyl-acetamide
Stir cyclopropaneacetic acid (30 g, 300 mmol) in dichloromethane (1 L) and treat with 1,1′-carbonyldiimidazole (52.5 g, 324 mmol) slowly. Stir for 2 hrs at room temperature and treat with N,O-dimethylhydroxylamine hydrochloride (30 g, 308 mmol), neat, in one portion; stir overnight. Pour mixture into water and extract twice with dichloromethane. Wash organic layers with water, dilute hydrochloric acid, saturated sodium bicarbonate solution, dry with magnesium sulfate, filter, and evaporate to provide the title compound (38 g, 89%). 1H NMR (CDCl3) δ 3.66 (s, 3H), 3.18 (s, 3H), 2.35 (d, J=8.0 Hz, 2H), 1.08 (m, 1H), 0.54 (m, 2H), 0.16 (m, 2H).

reactant | cyclopropaneacetic acid | 300 mmol, 30 g | C1(CC1)CC(=O)O | C5H8O2
reactant | 1,1′-carbonyldiimidazole | 324 mmol, 52.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 308 mmol, 30 g | Cl.CNOC
reactant | water | O | H2O
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2-Cyclopropyl-N-methoxy-N-methyl-acetamide | 38 g, 89% | C1(CC1)CC(=O)N(C)OC | C7H13NO2
